US05025036
A mixture of 1.91 g (3.75 mmol) of 1-(6-bromohexyl)-2,3-bis[(4-methylbenzoyl)oxy]benzene, 1.07 g (3.75 mmol) 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester, 0.94 g (5.63 mmol) of potassium iodide and 0.75 g (5.63 mol) of potassium carbonate in 40 mL of acetone was stirred at reflux for 26 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The crude product was purified by HPLC using 5% ethyl acetate-hexane to give 0.85 g (32% yield) of 2-hydroxy-4-[6-[2,3-bis[(4-methylbenzoyl)oxy]phenyl]hexyloxy]-3-propylbenzoic acid phenylmethyl ester as an oil.

reactant | 1-(6-bromohexyl)-2,3-bis[(4-methylbenzoyl)oxy]benzene | 3.75 mmol, 1.91 g | BrCCCCCCC1=C(C(=CC=C1)OC(C1=CC=C(C=C1)C)=O)OC(C1=CC=C(C=C1)C)=O | C28H29BrO4
reactant | 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester | 3.75 mmol, 1.07 g | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C17H18O4
reactant | potassium iodide | 5.63 mmol, 0.94 g | [I-].[K+]
reactant | potassium carbonate | 5.63 mol, 0.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 2-hydroxy-4-[6-[2,3-bis[(4-methylbenzoyl)oxy]phenyl]hexyloxy]-3-propylbenzoic acid phenylmethyl ester | 0.85 g, 32% yield | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OC(C1=CC=C(C=C1)C)=O)OC(C1=CC=C(C=C1)C)=O)CCC)O)=O | C45H46O8
